US06921763B2
A mixture containing N2-(4-bromophenyl)-5-chloro-1,3-benzoxazol-2-amine (4.00 g, 12.36 mmol), bis(pinacolato)diboron (3.77 g, 14.83 mmol), potassium acetate (3.64 g, 37.09 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complexed with dichloromethane (1:1) (0.61 g, 0.74 mmol) in dimethylformamide (200 mL) was heated at 80° C. under nitrogen for 16 h. Additional Pd catalyst (0.61 g) was added and the reaction was continued for a further 6 h. Additional diboron (3.0 g) was then added and the reaction proceeded for a further 16 h. Silica gel (20 mL) was added to the reaction mixture and the solvent removed under reduced pressure. The resulting solid was then purified through a silica pad using a 10% to 20% ethyl acetate in heptane gradient as the eluent. The resulting solid was triturated with heptane to afford N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-chloro-1,3-benzoxazol-2-amine as a cream solid (2.40 g, 52%); RP-HPLC Rt 18.164 min, 99% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); 1H NMR (400 MHz, d6-DMSO) 1.29 (12H, s), 7.17 (1H, dd, J 8.5 and 2.1 Hz), 7.56 (2H, m), 7.68 (2H, m), 7.75 (2H, m), and 10.96 (1H, s).

reactant | N2-(4-bromophenyl)-5-chloro-1,3-benzoxazol-2-amine | 12.36 mmol, 4.00 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)Cl | C13H8BrClN2O
reactant | bis(pinacolato)diboron | 14.83 mmol, 3.77 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 37.09 mmol, 3.64 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.74 mmol, 0.61 g | ClCCl | CH2Cl2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
catalyst | Pd | 0.61 g | [Pd] | Pd
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-chloro-1,3-benzoxazol-2-amine | 2.40 g, 52% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)Cl)C | C19H20BClN2O3
